US05712267
122(a) 1-Benzhydryl-3-(1-imidazolyl)azetidine
A solution of 3.20 g of imidazole in 25 ml of dimethylformamide was added to 2.10 g of a suspension of sodium hydride (as a 55% w/w dispersion in mineral oil) in 25 ml of dimethylformamide, whilst ice-cooling. The mixture was then stirred at room temperature for 1 hour. A solution of 5.00 g of 1-benzhydryl-3-methanesulfonyloxyazetidine in 50 ml of dimethylformamide was then added to the mixture, after which the mixture was stirred at 70° C. for 17 hours. At the end of this time, the reaction mixture was diluted with ethyl acetate and washed with water and with an aqueous solution of sodium chloride, in that order. The ethyl acetate layer was then dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The resulting residue was subjected to silica gel column chromatography to obtain 2.88 g of the title compound, as a powder, from the fraction obtained by elution with a 95:5 by volume mixture of ethyl acetate and methanol.

reactant | imidazole | 3.20 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-benzhydryl-3-methanesulfonyloxyazetidine | 5.00 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OS(=O)(=O)C | C17H19NO3S
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Benzhydryl-3-(1-imidazolyl)azetidine | 2.88 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N1C=NC=C1 | C19H19N3
